US07220856B2
Preparation of 4-(2-Amino-7-chloro-4-quinolinyl)-N-(2,3,4,5,6-pentafluorophenyl)-1-piperazinecarboxamide
To a mixture of pentafluorophenyl isocyanate (0.03 mL, 0.23 mmol) and iPr2NEt (0.05 mL, 0.29 mmol) in DMF (1 mL), a hot solution of 7-chloro-4-(1-piperazinyl)-2-quinolinamine (50 mg, 0.19 mmol) in DMF (2 mL) was added. After stirring at rt overnight, the mixture was poured into ice-water. The solid was collected by filtration and re-dissolved in CH2Cl2-MeOH, then purified by preparative TLC (CH2Cl2-MeOH, 9:1) affording the product as a light yellow solid. LC-MS: 472 (M++1). 1HNMR (DMSO-d6) δ 3.02 (br.s, 4H), 3.70 (br.s, 4H), 6.28 (s, 1H), 6.50 (s, 2H), 7.10 (d, 1H), 7.39 (s, 1H), 7.78 (d, 1H), 8.80 (s, 1H).

reactant | pentafluorophenyl isocyanate | 0.23 mmol, 0.03 mL | FC1=C(C(=C(C(=C1N=C=O)F)F)F)F | C7F5NO
reactant | iPr2NEt | 0.29 mmol, 0.05 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 7-chloro-4-(1-piperazinyl)-2-quinolinamine | 0.19 mmol, 50 mg | ClC1=CC=C2C(=CC(=NC2=C1)N)N1CCNCC1 | C13H15ClN4
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 4-(2-Amino-7-chloro-4-quinolinyl)-N-(2,3,4,5,6-pentafluorophenyl)-1-piperazinecarboxamide | NC1=NC2=CC(=CC=C2C(=C1)N1CCN(CC1)C(=O)NC1=C(C(=C(C(=C1F)F)F)F)F)Cl | C20H15ClF5N5O
